* 6V6 / 6V6GT — beam tetrode (~12 W, small Hi-Fi / guitar combos).
*
* Norman Koren pentode model. Typical sample (T031 for precise fit).
*
* tube_type: pentode
* Pins: P (plate), G2 (screen), G (grid 1), K (cathode).
.SUBCKT 6V6 P G2 G K
* Koren parameters: MU=10.85 EX=1.31 KG1=1672 KG2=4200 KP=58 KVB=14
E1 7 0 VALUE={V(G2,K)/58*LN(1+EXP(58*(1/10.85+V(G,K)/V(G2,K))))}
G1 P K VALUE={(PWRS(V(7),1.31)+PWRS(V(7),1.31))/1672 * ATAN(V(P,K)/14)}
G2 G2 K VALUE={(PWRS(V(7),1.31)+PWRS(V(7),1.31))/4200}
C1 G K 9p
C2 G P 0.7p
C3 P K 7.5p
RGI G K 1MEG
.ENDS 6V6
